USRE037478E1
1-[4-[3-[4-(1,2-Benzisoxazol-3-yl)-1-piperidinyl]propoxy]-1-methyoxyphenyl]-ethanone
A mixture of 3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride (4.8 g, 20 mmol), K2CO3 (5.2 g, 40 mmol), 1-[4-(3-chloropropoxy)-3-methyoxyphenyl]ethanone (5.3 g, 22 mmol), a few crystals of KI and dimethylformamide (60 ml) was stirred at 90 C. for 16 hours. The reaction was poured into water and the aqueous mixture was extracted with ethyl acetate. The extract was washed (water), dried (MgSO4) and concentrated to afford a brown oil. The oil was chromatographed on a Waters Prep 500 utilizing silica gel columns and ethyl acetate-diethylamine (2%), as eluent. Concentration of the appropriate fractions afforded 3.9 g of product as an off-white solid. Recrystallization from absolute ethyl alcohol afforded 2.6 g (33%) of 1-[4-[3-[4-(1,2-benzisoxazol-3-yl)-1-piperidinyl]propoxy]-3-methoxypehenyl]ethanone, m.p.=102°-104° C., as colorless needles.

reactant | 3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride | 20 mmol, 4.8 g | Cl.N1CCC(CC1)C1=NOC2=C1C=CC=C2
reactant | K2CO3 | 40 mmol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(3-chloropropoxy)-3-methyoxyphenyl]ethanone | 22 mmol, 5.3 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[3-[4-(1,2-Benzisoxazol-3-yl)-1-piperidinyl]propoxy]-1-methyoxyphenyl]-ethanone | 3.9 g | O1N=C(C2=C1C=CC=C2)C2CCN(CC2)CCCOC2=CCC(C=C2)(OC)C(C)=O | C24H30N2O4
